US07253196B2
A 2-L reactor equipped with an overhead mechanical stirrer, condenser, nitrogen gas inlet port, temperature probe and reagent charging port, was placed under an atmosphere of nitrogen. The reactor was charged with zinc powder (<10 micron) (298 g, 4560 mmol) and acetic acid (500 mL). While vigorously stirring the heterogeneous mixture, (4S)-2-bromobicyclo[2.2.1]heptane-1-carboxylic acid (100 g, 456 mmol) was then added. A second portion of acetic acid (500 mL) was then used to rinse the walls of the reactor. The reaction mixture was brought to a gentle reflux (ca. 30 min) and then held at this temperature for 5 h. The cooled (room temperature) reaction mixture was passed through a pad of Celite, which was washed with acetic acid (1×300 mL) and ethyl acetate (1 (500 mL). The filtrate was concentrated, water (300 mL) was added, and then the mixture was stirred vigorously to induce precipitation. The precipitate was collected by filtration, washed with water, and dried under vacuum at 35° C. overnight. Pentane (50 mL) was then added, and the mixture was stirred vigorously for 20 min during which time a fine white precipitate formed. The resulting precipitate was filtered, washed with pentane (20 mL), and air dried to afford bicyclo[2.2.1]heptane-1-carboxylic acid (52 g) as a white solid.

reactant | (4S)-2-bromobicyclo[2.2.1]heptane-1-carboxylic acid | 456 mmol, 100 g | BrC1C2(CC[C@H](C1)C2)C(=O)O | C8H11BrO2
catalyst | zinc | 4560 mmol, 298 g | [Zn] | Zn
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | bicyclo[2.2.1]heptane-1-carboxylic acid | 52 g | C12(CCC(CC1)C2)C(=O)O | C8H12O2
